US06734312B2
ADC01 (2.9 g, 16.9 mmol) was slowly added to a solution of 3,4-dihydroxythiophene-2,5-dicarboxylic acid diethyl ester (2.0 g, 7.7 mmol), ethylene glycol (0.5 g, 8.5 mmol), and PH02 (4.4 g, 16.9 mmol) in dry tetrahydrofuran (150 ml) at 25° C. At 25° C. the reaction was slow and 2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid diethyl ester was obtained in 30-40% yield after 3 days. It was found that the reaction could be highly facilitated by heating. Stirring of the reaction mixture for 3 h followed by refluxing for 9 h (66° C.) gave yields of 90%. After refluxing the reaction mixture was allowed to cool to 25° C. and was concentrated by rotary evaporator to remove the THF. The residue was then diluted with diethyl ether and allowed to stand overnight to enable the triphenylphosphine oxide to precipitate out. The triphenylphosphine oxide was then removed by filtration and the residue purified by chromatography on silica gel (eluant: ethyl acetate/ hexane=2/1) to give 2.0 g of 2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid diethyl ester as white crystals (90% yield) as characterized by 1H NMR, 13C NMR, HRMS, and elemental analysis.

reactant | 3,4-dihydroxythiophene-2,5-dicarboxylic acid diethyl ester | 7.7 mmol, 2.0 g | C(C)OC(=O)C=1SC(=C(C1O)O)C(=O)OCC | C10H12O6S
reactant | ethylene glycol | 8.5 mmol, 0.5 g | C(CO)O | C2H6O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid diethyl ester | 30-40% yield | C(C)OC(=O)C=1SC(=C2OCCOC21)C(=O)OCC | C12H14O6S
